US07504401B2
3-Aminopyridine was coupled with 1,3,5-tribromobenzene to give (3,5-dibromo-phenyl)-pyridin-3-yl-amine by the method described in Example 44. The reaction was complete in 1 hour. The dibromide was converted to N-[3-bromo-5-(pyridin-3-ylamino)-phenyl]-acetamide by the method of Example 82.

reactant | 3-Aminopyridine | NC=1C=NC=CC1 | C5H6N2
reactant | 1,3,5-tribromobenzene | BrC1=CC(=CC(=C1)Br)Br | C6H3Br3
product | (3,5-dibromo-phenyl)-pyridin-3-yl-amine | BrC=1C=C(C=C(C1)Br)NC=1C=NC=CC1 | C11H8Br2N2
